US05283335
Preparation of Dipotassium 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate
A mixture of dimethyl 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate (16.5 g, 0.0659 mol), potassium hydroxide (10.4 g, 0.184 mol) and methanol is stirred for 3 hours at 49° C., cooled to room temperature, and filtered. The filter cake is dried to afford the title product as a cream-colored solid (14.5 g) mp >250° C.

reactant | dimethyl 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate | 0.0659 mol, 16.5 g | C1OCCC2=C1C=C(C(=C2)C(=O)OC)C(=O)OC | C13H14O5
reactant | potassium hydroxide | 0.184 mol, 10.4 g | [OH-].[K+]
solvent | methanol | CO | CH4O
product | Dipotassium 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate | 14.5 g | C1OCCC2=C1C=C(C(=C2)C(=O)[O-])C(=O)[O-].[K+].[K+] | InChI=1S/C11H10O5.2K/c12-10(13)8-3-6-1-2-16-5-7(6)4-9(8)11(14)15;;/h3-4H,1-2,5H2,(H,12,13)(H,14,15);;/q;2*+1/p-2
